US06414149B1
Step B: 1,2,3,4-Tetrahydro-isoquinoline-7-sulfonic acid dimethylamide
A mixture of 2-trifluoroacetyl-1,2,3,4-tetrahydro-isoquinoline-7-sulfonic acid dimethylamide (prepared according to the method of Example 247, Step A, 337 mg, 1.0 mmol) and potassium carbonate (207 mg, 1.5 mmol) in a 3:1 mixture of methanol/water (10 mL) was stirred at room temperature for 1 h and concentrated. The remaining aqueous residue was extracted with 10% isopropanol/chloroform (7×) and the combined organic extracts were dried over sodium sulfate, filtered, and evaporated to give 214 mg (89%) of the title compound of Example 247, Step B as a white solid. 1H NMR (CD3OD, 300 MHz) δ7.52 (d, 1H), 7.48 (s, 1H), 7.36 (d, 1H), 4.90 (s, 2H), 3.11 (t, 2H), 2.91 (t, 2H), 2.65 (s, 6H); MS (Cl/NH3) 241 (MH+).

reactant | 2-trifluoroacetyl-1,2,3,4-tetrahydro-isoquinoline-7-sulfonic acid dimethylamide | CN(S(=O)(=O)C1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O)C | C13H15F3N2O3S
reactant | potassium carbonate | 1.5 mmol, 207 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol water | 10 mL | CO.O
product | 1,2,3,4-Tetrahydro-isoquinoline-7-sulfonic acid dimethylamide | 214 mg, 89% | CN(S(=O)(=O)C1=CC=C2CCNCC2=C1)C | C11H16N2O2S
